US07358268B2
(iii) 3-({2-[2-(2-Methoxy-ethoxy)-ethoxy]-acetimidoyl}-aminooxy)-acrylic acid methyl ester
To a vigorously stirred mixture of crude N-hydroxy-2-[2-(2-methoxy-ethoxy)-ethoxy]-acetamidine (3.02 g) and NEt3 (2.30 mL) in DCM (40 mL) was added propynoic acid methyl ester (1.43 mL) dropwise. The mixture was stirred for 30 min at RT, washed with water, dried over anhydrous MgSO4 and concentrated in vacuo. The residue, crude 3-({2-[2-(2-Methoxy-ethoxy)-ethoxy]-acetimidoyl}-aminooxy)-acrylic acid methyl ester (4.50 g) was directly used in the next step.

reactant | N-hydroxy-2-[2-(2-methoxy-ethoxy)-ethoxy]-acetamidine | 3.02 g | ONC(COCCOCCOC)=N | C7H16N2O4
reactant | NEt3 | 2.30 mL | CCN(CC)CC | C6H15N
reactant | propynoic acid methyl ester | 1.43 mL | COC(C#C)=O | C4H4O2
solvent | DCM | 40 mL | C(Cl)Cl | CH2Cl2
product | 3-({2-[2-(2-Methoxy-ethoxy)-ethoxy]-acetimidoyl}-aminooxy)-acrylic acid methyl ester | COC(C=CONC(COCCOCCOC)=N)=O | C11H20N2O6
